US07728030B2
1-(2-fluoro-5-methoxybenzylidene)-2-(4-fluorophenyl)hydrazine
(4-fluorophenyl)hydrazine (6.5 g, 40 mmol), 2-fluoro-5-methoxybenzaldehyde (6.2 g, 40 mmol) and cesium carbonate (13 g, 40 mmol) were stirred in DMF (40 mL) at r.t. under argon atmosphere for 1.5 h and was then poured with stirring into water and extracted with ethyl acetate. The organic phase was washed trice with water, then brine and evaporated. The residue crystallized slowly to afford the subtitle compound as a beige-light brown crystal mass (10.21 g).

reactant | (4-fluorophenyl)hydrazine | 40 mmol, 6.5 g | FC1=CC=C(C=C1)NN | C6H7FN2
reactant | 2-fluoro-5-methoxybenzaldehyde | 40 mmol, 6.2 g | FC1=C(C=O)C=C(C=C1)OC | C8H7FO2
reactant | cesium carbonate | 40 mmol, 13 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 1-(2-fluoro-5-methoxybenzylidene)-2-(4-fluorophenyl)hydrazine | FC1=C(C=NNC2=CC=C(C=C2)F)C=C(C=C1)OC | C14H12F2N2O
